US08563575B2
A mixture of tert-butyl 5-amino-2,3-dihydro-1H-indole-1-carboxylate (4.10 g), tert-butyl 2-chloropyridin-3-ylcarbamate (4.20 g), Pd2(dba)3 (0.48 g), Xantphos (0.608 g), sodium tert-butoxide (2.52 g) in 2-propanol (64 ml) and toluene (12 mL) was stirred at 90° C. for 40 h, and treated with water and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was suspended in CH3CN and the precipitate was collected by filtration to give tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate (1.64 g). The filtrate was evaporated and then the residue was chromatographed on silica gel eluting with AcOEt/Hexane=2/1 to afford second crop (1.4 g).

reactant | tert-butyl 5-amino-2,3-dihydro-1H-indole-1-carboxylate | 4.10 g | NC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H18N2O2
reactant | tert-butyl 2-chloropyridin-3-ylcarbamate | 4.20 g | ClC1=NC=CC=C1NC(OC(C)(C)C)=O | C10H13ClN2O2
reactant | Xantphos | 0.608 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 2.52 g | CC(C)([O-])C.[Na+]
solvent | 2-propanol | 64 ml | CC(C)O | C3H8O
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.48 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate | 1.64 g | O=C1NC=2C(=NC=CC2)N1C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C19H20N4O3
